US07208493B2
N-[2-(1H-Indol-2-yl)-phenyl]-2-(2-methoxy-phenyl)-acetamide
Prepared from 2-(2-aminophenyl) indole and 2-methoxyphenylacetic acid in 53% yield following procedure 1. The product was crystallized from acetonitrile. 100% Purity by LC/MS (230 DAD), Mass-spec [M+H+]=357, 1H NMR (MeOH-d4): 3.45 s (3H, OMe), 3.67 s (2H), 6.17 s (1H), 6.75 d, 8 Hz (1H), 6.83 t, 8 Hz (1H), 7.06 t, 8 Hz (1H), 7.14 t, 8 Hz (1H), 7.17–7.21 m (3H), 7.23–7.36 m (2H), 7.49 t, 8 Hz (2H), 8.13 d, 8 Hz (1H).

reactant | 2-(2-aminophenyl) indole | NC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1 | C14H12N2
reactant | 2-methoxyphenylacetic acid | COC1=C(C=CC=C1)CC(=O)O | C9H10O3
product | N-[2-(1H-Indol-2-yl)-phenyl]-2-(2-methoxy-phenyl)-acetamide | 53% yield | N1C(=CC2=CC=CC=C12)C1=C(C=CC=C1)NC(CC1=C(C=CC=C1)OC)=O | C23H20N2O2
